US07199133B2
200 mg of water-moist Raney nickel and 1.0 ml of methanolic ammonia solution are added to a solution of 200 mg (0.434 mmol) of 2-(3-cyanophenylamino)-N-[4-(1,1-dioxoisothiazolidin-2-yl)-3-methylphenyl]-2-phenylacetamide in 3 ml of methanol, and the mixture is hydrogenated at 50° C. The reaction mixture is filtered, and the filtrate is evaporated, giving 2-(3-aminomethylphenylamino)-N-[4-(1,1-dioxoisothiazolidin-2-yl)-3-methylphenyl]-2-phenylacetamide as a colourless solid; ESI 465.

reactant | water | 200 mg | O | H2O
reactant | ammonia | 1.0 ml | N | H3N
reactant | 2-(3-cyanophenylamino)-N-[4-(1,1-dioxoisothiazolidin-2-yl)-3-methylphenyl]-2-phenylacetamide | 0.434 mmol, 200 mg | C(#N)C=1C=C(C=CC1)NC(C(=O)NC1=CC(=C(C=C1)N1S(CCC1)(=O)=O)C)C1=CC=CC=C1 | C25H24N4O3S
solvent | methanol | 3 ml | CO | CH4O
product | 2-(3-aminomethylphenylamino)-N-[4-(1,1-dioxoisothiazolidin-2-yl)-3-methylphenyl]-2-phenylacetamide | NCC=1C=C(C=CC1)NC(C(=O)NC1=CC(=C(C=C1)N1S(CCC1)(=O)=O)C)C1=CC=CC=C1 | C25H28N4O3S
